US06262305B1
A. 2-methyl-2-(4-methylphenyl)sulfonyl hydrazine
Into a 100 mL three necked round bottom flask equipped with a mechanical stirrer, thermometer, and dropping funnel under an atmosphere of nitrogen was added THF (25 mL), methylhydrazine (2.53 g, 2.92 mL, 55 mmol), and triethylamine (4.35 g, 5.99 mL, 55 mmol). The temperature of the mixture was lowered to approximately 5° C. and 4-methylbenzenesulfonyl chloride (9.5 g, 50 mmol) dissolved in 25 mL of THF was added dropwise at a rate such that the temperature did not rise over 10° C. The cooling bath was removed and the mixture was allowed to stir overnight at RT. Ether (100 mL) was added to the reaction mixture and the resulting slurry was washed with water (50 mL), brine (50 mL), dried (Na2SO4), and the solvent was removed in vacuo to give 9.5 g (95% yield) of the title product. 1H NMR (CDCl3) δ 7.7 (d, 2H), 7.4 (d, 2H), 3.6 (s, b, 2H), 2.8 (s, 3H), 2.4 (s, 3H)

reactant | methylhydrazine | 55 mmol, 2.92 mL, 2.53 g | CNN | CH6N2
reactant | triethylamine | 55 mmol, 5.99 mL, 4.35 g | C(C)N(CC)CC | C6H15N
reactant | 4-methylbenzenesulfonyl chloride | 50 mmol, 9.5 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-methyl-2-(4-methylphenyl)sulfonyl hydrazine | 9.5 g, 95% yield | CN(N)S(=O)(=O)C1=CC=C(C=C1)C | C8H12N2O2S
